US08686022B2
(S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-methanesulphonylamino-2-methoxy-5-pentafluoroethyl-phenyl)-amide
70 mg (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-amino-2-methoxy-5-pentafluoroethyl-phenyl)-amide are dissolved in 2 ml dichloromethane, combined with 36 μl triethylamine, and 20 μl methanesulphonic acid chloride are added dropwise to this mixture. It is stirred for 2 hours, a further 20 μl methanesulphonic acid chloride and 36 μl triethylamine are added and then it is stirred for 1.5 hours. Then 2 ml of methanol and 600 μl of 2 N sodium hydroxide solution are added. The mixture is stirred for 2 hours, the solvents are eliminated in vacuo and the residue is chromatographed on silica gel (dichloromethane/(methanol/ammonia in methanol (saturated) 9:1) 99:1 to 85:15).

reactant | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-amino-2-methoxy-5-pentafluoroethyl-phenyl)-amide | 70 mg | NC=1C(=C(C=C(C1)C(C(F)(F)F)(F)F)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC | C30H35F5N6O3
reactant | triethylamine | 36 μl | C(C)N(CC)CC | C6H15N
reactant | methanesulphonic acid chloride | 20 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | methanesulphonic acid chloride | 20 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 36 μl | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2 N, 600 μl | [OH-].[Na+]
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | methanol | 2 ml | CO | CH4O
product | (S)-1-methyl-7-[4-(1-methyl-pyrrolidine-2-carbonyl)-piperazin-1-ylmethyl]-1H-indole-2-carboxylic acid-(3-methanesulphonylamino-2-methoxy-5-pentafluoroethyl-phenyl)-amide | CS(=O)(=O)NC=1C(=C(C=C(C1)C(C(F)(F)F)(F)F)NC(=O)C=1N(C2=C(C=CC=C2C1)CN1CCN(CC1)C(=O)[C@H]1N(CCC1)C)C)OC | C31H37F5N6O5S
